US06667316B1
A mixture of (tert-butoxy)-N-[1-(3-ethoxy-4-methoxyphenyl)-3-oxobutyl]carboxamide (2.0 g, 5.92 mmol) and sodium borohydride (0.4 g, 12.0 mmol) in methanol (40 mL) and tetrahydrofuran (10 mL) was stirred at −10 to −20° C. for 4 hours. The mixture was quenched with water (10 mL) and then concentrated in vacuo to afford an oil. The oil was dissolved in ethyl acetate and washed with water, brine, dried, and concentrated in vacuo to afford an oil. The oil was purified by chromatography (silica gel, methylene chloride:ethyl acetate 8:2) to give the two diasteromers of (tert-butoxy)-N-[1-(3-ethoxy-4-methoxyphenyl)-3-hydroxybutyl)carboxamide:

reactant | (tert-butoxy)-N-[1-(3-ethoxy-4-methoxyphenyl)-3-oxobutyl]carboxamide | 5.92 mmol, 2.0 g | C(C)(C)(C)OC(=O)NC(CC(C)=O)C1=CC(=C(C=C1)OC)OCC | C18H27NO5
reactant | sodium borohydride | 12.0 mmol, 0.4 g | [BH4-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (tert-butoxy)-N-[1-(3-ethoxy-4-methoxyphenyl)-3-hydroxybutyl)carboxamide | C(C)(C)(C)OC(=O)NC(CC(C)O)C1=CC(=C(C=C1)OC)OCC | C18H29NO5
